US06166006
In acetic acid (200 ml) was dissolved N,N-bis(2-methoxyethyl)-4-nitrobenzylamine (10.5 g), and to the mixture was added reduced iron (11 g) little by little. The mixture was stirred at room temperature overnight, and the solvent was evaporated. To the residue was added ethyl acetate and precipitates were filtered off. The filtrate was washed with sodium hydroxide solution, water and saturated brine, and dried with anhydrous magnesium sulfate. Under reduced pressure, the solvent was evaporated, and the residue was purified with silica gel column chromatography (ethyl acetate) to give 4-((N,N-bis(2-methoxyethyl)amino)methyl)aniline (6.2 g) as red oil.

reactant | N,N-bis(2-methoxyethyl)-4-nitrobenzylamine | 10.5 g | COCCN(CCOC)CC1=CC=C(C=C1)[N+](=O)[O-] | C13H20N2O4
solvent | acetic acid | 200 ml | C(C)(=O)O | C2H4O2
product | 4-((N,N-bis(2-methoxyethyl)amino)methyl)aniline | 6.2 g | COCCN(CCOC)CC1=CC=C(N)C=C1 | C13H22N2O2
